US05405989
Five hundred milligrams of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a mixture of 500 mg of 6-phenylhexanoic acid and 20 ml of dry chloroform at room temperature with stirring. After the resultant mixture had been stirred for 30 minutes at room temperature, 146 mg of propargyl alcohol was added thereto at room temperature. Thereafter, the resulting mixture was stirred for 12 hours at room temperature, poured into ice water and extracted with chloroform. The chloroform extract was washed with an aqueous saturated ammonium chloride solution and then with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to chromatography on silica gel to obtain 155 mg of propargyl 6-phenylhexanoate.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Five hundred milligrams | Cl.C(C)N=C=NCCCN(C)C
reactant | 6-phenylhexanoic acid | 500 mg | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | propargyl alcohol | 146 mg | C(C#C)O | C3H4O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | propargyl 6-phenylhexanoate | 155 mg, Yield: 26% | C1(=CC=CC=C1)CCCCCC(=O)OCC#C | C15H18O2
